US07276286B2
Oxalyl chloride (100 g, 0.78 mol) was added dropwise over 1 h to a solution of 2-[2-(2-methoxy-ethoxy)ethoxy]-acetic acid (90 mL, 0.59 mol) and pyridine (0.1 mL, 1 mmol) in anhydrous toluene (250 mL) and the resulting solution was stirred at ambient temperature for 48 h. The reaction solution was concentrated in vacuo to afford CH3(OCH2CH2)2CH2OCH2COCl as a slightly yellow oil (120 g, 96%). This compound was used without any further purification.

reactant | Oxalyl chloride | 0.78 mol, 100 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 2-[2-(2-methoxy-ethoxy)ethoxy]-acetic acid | 0.59 mol, 90 mL | COCCOCCOCC(=O)O | C7H14O5
reactant | pyridine | 1 mmol, 0.1 mL | N1=CC=CC=C1 | C5H5N
solvent | toluene | 250 mL | C1(=CC=CC=C1)C | C7H8
product | CH3(OCH2CH2)2CH2OCH2COCl | COCCOCCCOCC(=O)Cl | C8H15ClO4
